US05574042
To a solution of 3-bromo-8-(2,6-dichloro-3-acetylaminobenzyloxy)-2-methylimidazo[1,2-a]pyridine (222 mg) in N,N-dimethylformamide (2 ml) was added sodium hydride (24 mg, 60% oil dispersion) at ambient temperature. The mixture was stirred for half an hour at the same temperature and then ethyl bromoacetate (100 mg) was added thereto in one portion. The mixture was stirred for 2 hours at the same temperature and poured into water. The separated oil was extracted with dichloromethane. The extract was washed with water, dried, and concentrated in vacuo. The residue was purified by flash chromatography on silica gel to give an oil, which was dissolved in a mixture of ethanol (10 ml) and 1N sodium hydroxide solution (2 ml). The solution was refluxed for one and half hour. The organic solvent was removed under reduced pressure. The aqueous layer was adjusted to pH 4 with diluted hydrochloric acid to give 3-bromo-8-[2,6-dichloro-3-(N-carboxymethyl-N-acetylamino)benzyloxy]-2-methylimidazo[1,2-a]pyridine (150 mg) as a white solid.

reactant | 3-bromo-8-(2,6-dichloro-3-acetylaminobenzyloxy)-2-methylimidazo[1,2-a]pyridine | 222 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)NC(C)=O)Cl)C | C17H14BrCl2N3O2
reactant | sodium hydride | 24 mg | [H-].[Na+]
reactant | ethyl bromoacetate | 100 mg | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
product | 3-bromo-8-[2,6-dichloro-3-(N-carboxymethyl-N-acetylamino)benzyloxy]-2-methylimidazo[1,2-a]pyridine | 150 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C(C)=O)CC(=O)O)Cl)C | C19H16BrCl2N3O4
